US05583221
To an ice-cooled solution/suspension of 2-(4-methoxymethoxybenzamido)-1-indanone (475 mg, 1.5 mmol) in methanol (100 mL) was added NaBH4 (13.9 mg, 3.75 mmol) portionwise. After reaction at rt for 15 min, volatiles were removed in vacuo and the residue triturated in MeOH to afford exclusively trans-2-(4-methoxymethoxybenzamido)-1-indanol as a white solid (279 mg). The mother liquid was chromatographed (silica gel, Hexane:EtOAc/7:1 to 1:1) to afford an additional 82 mg of the product (360 mg in total, 75%).

reactant | 2-(4-methoxymethoxybenzamido)-1-indanone | 1.5 mmol, 475 mg | COCOC1=CC=C(C(=O)NC2C(C3=CC=CC=C3C2)=O)C=C1 | C18H17NO4
reactant | NaBH4 | 3.75 mmol, 13.9 mg | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | trans-2-(4-methoxymethoxybenzamido)-1-indanol | 279 mg | COCOC1=CC=C(C(=O)N[C@H]2[C@@H](C3=CC=CC=C3C2)O)C=C1 | C18H19NO4
